### PR TITLE
[Merged by Bors] - feat: definition and properties of the Turán graph

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
The first part of the main file in #9317.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
+  by_contra cf
+  obtain ⟨K, ⟨_, cK⟩⟩ := exists_smaller_set (univ : Finset V) r hn
+  have := (G.isNClique_iff).not.mp (cf K)
+  simp_rw [cK, and_true, IsClique, Set.Pairwise, not_forall] at this
+  obtain ⟨a, _, b, _, ne, na⟩ := this
+  have nhx : ¬G.IsTuranMaximal r := by
+    simp_rw [IsTuranMaximal, hx.1, true_and]; push_neg
+    use G ⊔ edge a b, inferInstance, cf.sup_edge a b
+    convert Nat.lt.base _
+    convert G.card_edgeFinset_sup_edge na ne
```
Comment (Parcly-Taxel) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:89]: Is there a nicer way to do these steps? `rw [G.card_edgeFinset_sup_edge na ne, Nat.lt.base]` doesn't work because the inner instances corresponding to the `Sup` don't match.

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+/-!
+# The Turán graph
+
+This file defines the Turán graph and proves some of its basic properties.
+
+## Main declarations
+
+* `G.IsTuranMaximal r`: predicate saying that `G` has the most number of edges for its number `n`
+  of vertices while still being `r + 1`-cliquefree.
+* `turanGraph n r`: the canonical `r + 1`-cliquefree Turán graph on `n` vertices.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:17]:
```suggestion
* `SimpleGraph.IsTuranMaximal`: `G.IsTuranMaximal r` means that `G` has the most number of edges for
  its number of vertices while still being `r + 1`-cliquefree.
* `SimpleGraph.turanGraph n r`: The canonical `r + 1`-cliquefree Turán graph on `n` vertices.
```

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 3]
```diff
@@ -0,0 +1,92 @@
...
+theorem turanGraph_zero_eq_top {n : ℕ} : turanGraph n 0 = ⊤ := by
+  ext a b
+  simp_rw [turanGraph, top_adj, Nat.mod_zero, not_iff_not, Fin.val_inj]
+
+variable {n r : ℕ}
+
+instance : DecidableRel (turanGraph n r).Adj := by dsimp only [turanGraph]; infer_instance
+
+/-- For `n ≤ r`, `turanGraph n r` is complete. -/
+theorem turanGraph_eq_top_of_le {n r} (h : n ≤ r) : turanGraph n r = ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:52]: You're missing a theorem of the form
```
@[simp] theorem turanGraph_eq_top {n r} : turanGraph n r = ⊤ ↔ r = 0 ∨ n ≤ r := by
```
You might as well use it to replace `turanGraph_eq_top_of_le`

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 4]
```diff
@@ -0,0 +1,92 @@
...
+  rw [not_isEmpty_iff] at h
+  obtain ⟨f, ha⟩ := h
+  simp only [turanGraph, top_adj] at ha
+  obtain ⟨x, y, d, c⟩ := Fintype.exists_ne_map_eq_of_card_lt (fun x : Fin (r + 1) ↦
+    (⟨(f x).1 % r, Nat.mod_lt _ hr⟩ : Fin r)) (by simp)
+  simp only [Fin.mk.injEq] at c
+  exact absurd c ((@ha x y).mpr d)
+
+/-- For `n ≤ r` and `0 < r`, `turanGraph n r` is Turán-maximal. -/
+theorem isTuranMaximal_turanGraph_of_le (h : n ≤ r) : (turanGraph n r).IsTuranMaximal r := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:71]: I think the `_of_le` part is not very informative
```suggestion
theorem isTuranMaximal_turanGraph (h : n ≤ r) : (turanGraph n r).IsTuranMaximal r := by
```

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Turan.lean]: Done.

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 5]
```diff
@@ -0,0 +1,91 @@
...
+theorem turanGraph_eq_top : turanGraph n r = ⊤ ↔ r = 0 ∨ n ≤ r := by
+  simp_rw [SimpleGraph.ext_iff, Function.funext_iff, turanGraph, top_adj, eq_iff_iff, not_iff_not]
+  constructor <;> intro h
+  · contrapose! h
+    use ⟨0, (Nat.pos_of_ne_zero h.1).trans h.2⟩, ⟨r, h.2⟩
+    simp [h.1.symm]
+  · intro a b
+    cases' h with h h
+    · simp_rw [h, Nat.mod_zero, Fin.val_inj]
+    · rw [Nat.mod_eq_of_lt (a.2.trans_le h), Nat.mod_eq_of_lt (b.2.trans_le h), Fin.val_inj]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:55]:
```suggestion
@[simp] lemma turanGraph_zero (n : ℕ) : turanGraph n 0 = ⊤ := by
  ext a b; simp_rw [turanGraph, top_adj, Nat.mod_zero, not_iff_not, Fin.val_inj]

@[simp]
theorem turanGraph_eq_top : turanGraph n r = ⊤ ↔ r = 0 ∨ n ≤ r := by
  simp_rw [SimpleGraph.ext_iff, Function.funext_iff, turanGraph, top_adj, eq_iff_iff, not_iff_not]
  refine ⟨fun h ↦ ?_, ?_⟩
  · contrapose! h
    use ⟨0, (Nat.pos_of_ne_zero h.1).trans h.2⟩, ⟨r, h.2⟩
    simp [h.1.symm]
  · rintro (rfl | h) a b
    · simp
    · rw [Nat.mod_eq_of_lt (a.2.trans_le h), Nat.mod_eq_of_lt (b.2.trans_le h), Fin.val_inj]
```

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Turan.lean]: I fixed it (by generalising the fintype assumptions appearing on the LHS of earlier lemmas) and then found a golf which made the fix redundant. Here's the fixed ungolfed version for your instruction:
```
theorem not_cliqueFree_of_isTuranMaximal (hn : r ≤ Fintype.card V) (hG : IsTuranMaximal G r) :
    ¬G.CliqueFree r := by
  by_contra cf
  obtain ⟨K, _, rfl⟩ := exists_smaller_set (univ : Finset V) r hn
  have := (cf K)
  rw [isNClique_iff] at this
  have := (G.isNClique_iff).not.mp (cf K)
  simp_rw [and_true, IsClique, Set.Pairwise, not_forall] at this
  obtain ⟨a, _, b, _, ne, na⟩ := this
  refine not_not_intro hG ?_
  simp_rw [IsTuranMaximal, hG.1, true_and]; push_neg
  use G ⊔ edge a b, inferInstance, cf.sup_edge a b
  rw [card_edgeFinset_sup_edge]
  exacts [lt_add_one _, na, ne]
```

**Comment by YaelDillies** [comment]
Thanks!

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
